US06326398B1
To a stirred solution of 2,2-dimethyl-7-hydroxy-4-methoxyindan-1-one (500 mg) and methanesulfonic acid (466 mg) in dichloromethane (12 mL) was added triethylsilane (564 mg). Every 0.5 h, over a 3 h period, additional portions of methanesulfonic acid and triethylsilane were added. The reaction was partitioned between water and dichloromethane, the organic layer dried over sodium sulfate, concentrated in vacuo and the resulting oil flash chromatographed (1:1, chloroform:hexanes) to afford 2,2-dimethyl-7-hydroxy-4-methoxyindane (230 mg) as a colorless waxy solid.

reactant | 2,2-dimethyl-7-hydroxy-4-methoxyindan-1-one | 500 mg | CC1(C(C2=C(C=CC(=C2C1)OC)O)=O)C | C12H14O3
reactant | methanesulfonic acid | 466 mg | CS(=O)(=O)O | CH4O3S
reactant | triethylsilane | 564 mg | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 2,2-dimethyl-7-hydroxy-4-methoxyindane | 230 mg | CC1(CC2=C(C=CC(=C2C1)OC)O)C | C12H16O2
